US05081138
1-(p-Chlorobenzyl)-α,α-dimethyl-5-fluoro -3-methylthioindole-2-propanoic acid
Following the procedure of Example 10, but using 1-(p-chlorobenzyl)-1-(4-fluorophenyl)hydrazine hydrochloride and methyl 2,2-dimethyl-5-methylthio -4-oxopentanoate as starting materials and hydrolysis at reflux, the title compound was prepared, mp 161°-163°.

reactant | 1-(p-chlorobenzyl)-1-(4-fluorophenyl)hydrazine hydrochloride | Cl.ClC1=CC=C(CN(N)C2=CC=C(C=C2)F)C=C1
reactant | methyl 2,2-dimethyl-5-methylthio -4-oxopentanoate | CC(C(=O)OC)(CC(CSC)=O)C | C9H16O3S
product | 1-(p-Chlorobenzyl)-α,α-dimethyl-5-fluoro -3-methylthioindole-2-propanoic acid | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)F)SC)CC(C(=O)O)(C)C)C=C1 | C21H21ClFNO2S
